US08389527B2
A ˜1:1 mixture 6,8-dichloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide and 8-bromo-6-chloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (3 g, 8.6 mmol), N-(4-methoxybenzyl)cyclopropanamine (8.16 g, 23.82 mmol) and N,N-diisopropylethylamine (3.08 g, 23.82 mmol) was suspended in DMF (100 mL) and heated at 80° C. for 1.5 hrs. The reaction mixture was concentrated and dried under reduced pressure for 16 hrs. The residue was suspended in methanol (75 mL) and an off-white solid was collected via Buchner filtration (2×25 mL methanol rinse) to isolate 6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide (10.2 g, 21.1 mmol, 89%) as a tan solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA) Rt=2.21 minutes. [M+H]=483.06.

reactant | 6,8-dichloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)Cl | C12H6Cl3N5O
reactant | 8-bromo-6-chloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 8.6 mmol, 3 g | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl | C12H6BrCl2N5O
reactant | N-(4-methoxybenzyl)cyclopropanamine | 23.82 mmol, 8.16 g | COC1=CC=C(CNC2CC2)C=C1 | C11H15NO
reactant | N,N-diisopropylethylamine | 23.82 mmol, 3.08 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 21.1 mmol, 10.2 g, 89% | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20Cl2N6O2
